US08017792B2
A tetrahydrofuran solution (25 mL) of 3,5-dibromo pyridine (5 g, 0.0211 mol) was added dropwise to a mixture of a tetrahydrofuran solution (21.1 mL) of 1M isopropyl magnesium chloride and tetrahydrofuran (10 mL) at 4° C. for 15 minutes. After stirred at room temperature for 2.5 hours, the reaction mixture was added with 4-ethoxybenzaldehyde (2.93 mL, 0.0211 mol) and stirred for further 1.5 hours. After the reaction mixture was added with water while cooled on ice and extracted with ethyl acetate, the organic phase was washed with brine and dried with anhydrous magnesium sulfate. After the desiccant was filtered off, the residue obtained by evaporating the solvent under reduced pressure was purified by silica gel column chromatography (hexane:ethyl acetate=1:1) to obtain (5-bromopyridine-3-yl)(4-ethoxyphenyl)methanol (5.0 g, 77%) as a yellow oily substance.

reactant | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
reactant | 3,5-dibromo pyridine | 0.0211 mol, 5 g | BrC=1C=NC=C(C1)Br | C5H3Br2N
reactant | tetrahydrofuran | 21.1 mL | O1CCCC1 | C4H8O
reactant | isopropyl magnesium chloride | 1M | C(C)(C)[Mg]Cl
reactant | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
reactant | 4-ethoxybenzaldehyde | 0.0211 mol, 2.93 mL | C(C)OC1=CC=C(C=O)C=C1 | C9H10O2
solvent | water | O | H2O
product | (5-bromopyridine-3-yl)(4-ethoxyphenyl)methanol | 5.0 g, 77% | BrC=1C=C(C=NC1)C(O)C1=CC=C(C=C1)OCC | C14H14BrNO2
